US03931235
3-(m-Fluorobenzylthio)-4-hydroxy-6-methyl -2-pyrone
4-Hydroxy-3-mercapto-6-methyl-2-pyrone (50 g., 0.317 mole) and m-fluorobenzylchloride (45.8 g., 0.317 mole) were dissolved in pyridine (250 ml.). The temperature rose from 20° to 36°C. The resulting solution was heated at 90°C. for two hours and poured over ice and 500 ml. of concd. hydrochloric acid. This mixture was extracted with methylene chloride. The extract was dried (MgSO4) and the solvent removed by evaporation. The residue was mixed with hexane, filtered and dried, yielding 44.6 g. (53 percent) of the desired product. Recrystallization from benzene gave the pure product as a white solid, m.p. 123.5°-124°C.

reactant | 4-Hydroxy-3-mercapto-6-methyl-2-pyrone | 0.317 mole, 50 g | OC1=C(C(OC(=C1)C)=O)S | C6H6O3S
reactant | m-fluorobenzylchloride | 0.317 mole, 45.8 g | FC=1C=C(CCl)C=CC1 | C7H6ClF
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 3-(m-Fluorobenzylthio)-4-hydroxy-6-methyl -2-pyrone | 53 percent | FC=1C=C(CSC=2C(OC(=CC2O)C)=O)C=CC1 | C13H11FO3S
